US06555577B1
The colourless gum (E)-3-(4,4″-di-tert-butyl-[1,1′;3′,1″]terphenyl-5′-yl)-prop-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-(4,4″-di-tert-butyl-[1,1′;3′,1″]terphenyl-5′-yl)-acrylate by a procedure analogous to that described for example 52b.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-(4,4″-di-tert-butyl-[1,1′;3′,1″]terphenyl-5′-yl)-acrylate | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC(=C1)/C=C/C(=O)OCC)C1=CC=C(C=C1)C(C)(C)C | C31H36O2
product | (E)-3-(4,4″-di-tert-butyl-[1,1′;3′,1″]terphenyl-5′-yl)-prop-2-en-1-ol | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC(=C1)/C=C/CO)C1=CC=C(C=C1)C(C)(C)C | C29H34O
